US08039450B2
6-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-methoxy-nicotinamide (D112)
A solution of NaBH4 (0.077 g, 2.0 mmol) in anhydrous methanol (10 mL) was added to a solution of 6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-2-methoxy-nicotinamide (2.51 g, 6.30 mmol) in CH2Cl2 (40 mL) and stirred at room temperature for 5 minutes. Solid NaBH4 (0.400 g, 10.6 mmol) was then added portionwise over 45 minutes at room temperature. The reaction was stirred for an additional 30 minutes then quenched by the addition of 50% aqueous acetic acid (1 mL). After stirring for an additional 30 minutes at room temperature, the solution was concentrated in vacuo. The residue was purified by silica gel flash column chromatography (AcOH/MeOH/CH2Cl2 1:3:100 v/v/v) to give the title compound as a white fluffy solid (0.220 g, 12% yield).

reactant | NaBH4 | 2.0 mmol, 0.077 g | [BH4-].[Na+]
reactant | 6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-2-methoxy-nicotinamide | 6.30 mmol, 2.51 g | C(=O)C=1C=C(OC2=NC(=C(C(=O)N)C=C2)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C20H23BN2O6
reactant | NaBH4 | 10.6 mmol, 0.400 g | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-methoxy-nicotinamide | OB1OCC2=C1C=CC(=C2)OC2=NC(=C(C(=O)N)C=C2)OC | C14H13BN2O5
